US07081449B2
Preparation of 1-O-acetyl-2,3,5-tri-O-benzoyl-4-C-methyl-β-D-ribofuranose
Concentrated sulfuric acid (97%, 99 mL) was added to a solution of 2,3,5-tri-O-benzoyl-1-O-methyl-4-C-methyl-β-D-ribofuranose (1.8 g, 3.6 mmoles) in a mixture of acetic acid (9.0 mL) and acetic anhydride (0.90 mL) at 0° C. The reaction mixture was stirred at 25° C. for 16 h and diluted with ethyl acetate (50 mL) and brine (10 mL). The organic extract was washed with brine (3 times), with a saturated aqueous solution of sodium bicarbonate, dried over sodium sulfate, filtered, and the filtrate was evaporated to dryness. The residue was dissolved with a mixture of ethyl acetate and hexanes (1:4, v/v) and the b anomer of the title compound crystallized instantaneously. The white crystals were filtered to give 1.1 g (56%) of the title compound in its pure b anomer form. The filtrate was subjected to silica gel chromatography [ethyl acetate (20%) in hexanes] to give 0.6 g (32%) of the titled compound as an oil (3:1 mixture of a/b anomers).

reactant | sulfuric acid | 99 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2,3,5-tri-O-benzoyl-1-O-methyl-4-C-methyl-β-D-ribofuranose | 3.6 mmoles, 1.8 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@H](OC)O[C@@]([C@H]1OC(C1=CC=CC=C1)=O)(COC(C1=CC=CC=C1)=O)C | C28H26O8
reactant | acetic acid | 9.0 mL | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 0.90 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | brine | 10 mL | [Cl-].[Na+].O
product | 1-O-acetyl-2,3,5-tri-O-benzoyl-4-C-methyl-β-D-ribofuranose | 1.1 g, 56% | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@](O1)(COC(C1=CC=CC=C1)=O)C | C29H26O9
